US04996318
Diethylamine (80 g) is reacted with trichloropyrimidine (50 g) in THF. The reaction after chromatography yields a mixture of the mono- and di-adduct. This material is dissolved in pyridine (58 g) and reacted with diethylamine (35 g) at 50° for 3 h. The reaction is concentrated to a residue. The residue is partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase is separated and concentrated. The residue is chromatographed on silica gel, eluting with ethyl acetate/hexane (10/90). The appropriate fractions are pooled and concentrated to give 2,4-bis[diethylamino]-6-chloropyrimidine. This material is dissolved in pyridine (100 g) and reacted with piperazine (40 g) at 100° for 50 h. Following the above workup procedure the title compound is obtained, NMR (CDCl3) 1.15, 2.90, 3.45 and 4.9 δ.

reactant | Diethylamine | 80 g | C(C)NCC | C4H11N
reactant | trichloropyrimidine | 50 g | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | diethylamine | 35 g | C(C)NCC | C4H11N
solvent | THF | C1CCOC1 | C4H8O
solvent | pyridine | 58 g | N1=CC=CC=C1 | C5H5N
product | 2,4-bis[diethylamino]-6-chloropyrimidine | C(C)N(C1=NC(=CC(=N1)N(CC)CC)Cl)CC | C12H21ClN4
